### PR TITLE
[Merged by Bors] - feat(CategoryTheory): abstract argument for the stability under transfinite compositions

### PR DESCRIPTION
**Pull request by joelriou**
If a class of morphisms is multiplicative, respects isomorphisms and is stable under filtered colimits, then it is stable under transfinite compositions.
(This simplifies the proof in the case of monomorphisms in Grothendieck abelian categories, for isomorphisms, and in #23282, we shall apply this to monomorphisms in `Type`.)

--- 

This PR continues the work from #24777.

Original PR: https://github.com/leanprover-community/mathlib4/pull/24777

### CODE REVIEW

**Comment by joelriou** [comment]
## Comments from Original PR #24777

*This section contains 2 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-05-11 13:33 UTC](https://github.com/leanprover-community/mathlib4/pull/24777#issuecomment-2869855415)):
### PR summary [610816e983](https://github.com/leanprover-community/mathlib4/pull/24777/commits/610816e9831fe54c57186dfeaf4f6c653ab2fac3)

Import changes exceeding 2%

| %      | File |
| -      | -    |
| +2.57% | `Mathlib.CategoryTheory.MorphismProperty.TransfiniteComposition` |

<details><summary>

#### Import changes for modified files

</summary>

Dependency changes

| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.CategoryTheory.MorphismProperty.TransfiniteComposition | 738 | 757 | +19 (+2.57%) |
| Mathlib.CategoryTheory.MorphismProperty.Limits | 650 | 652 | +2 (+0.31%) |
| Mathlib.CategoryTheory.Abelian.GrothendieckCategory.Monomorphisms | 1038 | 1037 | -1 (-0.10%) |
| Mathlib.CategoryTheory.Abelian.GrothendieckCategory.EnoughInjectives | 1157 | 1156 | -1 (-0.09%) |


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
|<details><summary>6 files</summary> `Mathlib.CategoryTheory.Abelian.FreydMitchell` `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.Coseparator` `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.EnoughInjectives` `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.ModuleEmbedding.GabrielPopescu` `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.ModuleEmbedding.Opposite` `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.Monomorphisms`</details>|-1|
|<details><summary>54 files</summary> `Mathlib.AlgebraicGeometry.AffineScheme` `Mathlib.AlgebraicGeometry.AffineSpace` `Mathlib.AlgebraicGeometry.AffineTransitionLimit` `Mathlib.AlgebraicGeometry.Cover.MorphismProperty` `Mathlib.AlgebraicGeometry.Cover.Open` `Mathlib.AlgebraicGeometry.Cover.Sigma` `Mathlib.AlgebraicGeometry.Fiber` `Mathlib.AlgebraicGeometry.FunctionField` `Mathlib.AlgebraicGeometry.GammaSpecAdjunction` `Mathlib.AlgebraicGeometry.GluingOneHypercover` `Mathlib.AlgebraicGeometry.Gluing` `Mathlib.AlgebraicGeometry.IdealSheaf.Basic` `Mathlib.AlgebraicGeometry.IdealSheaf.Functorial` `Mathlib.AlgebraicGeometry.IdealSheaf.Subscheme` `Mathlib.AlgebraicGeometry.IdealSheaf` `Mathlib.AlgebraicGeometry.Limits` `Mathlib.AlgebraicGeometry.Morphisms.AffineAnd` `Mathlib.AlgebraicGeometry.Morphisms.Affine` `Mathlib.AlgebraicGeometry.Morphisms.Basic` `Mathlib.AlgebraicGeometry.Morphisms.ClosedImmersion` `Mathlib.AlgebraicGeometry.Morphisms.Constructors` `Mathlib.AlgebraicGeometry.Morphisms.FinitePresentation` `Mathlib.AlgebraicGeometry.Morphisms.FiniteType` `Mathlib.AlgebraicGeometry.Morphisms.Finite` `Mathlib.AlgebraicGeometry.Morphisms.Flat` `Mathlib.AlgebraicGeometry.Morphisms.Integral` `Mathlib.AlgebraicGeometry.Morphisms.IsIso` `Mathlib.AlgebraicGeometry.Morphisms.OpenImmersion` `Mathlib.AlgebraicGeometry.Morphisms.Preimmersion` `Mathlib.AlgebraicGeometry.Morphisms.QuasiCompact` `Mathlib.AlgebraicGeometry.Morphisms.QuasiSeparated` `Mathlib.AlgebraicGeometry.Morphisms.RingHomProperties` `Mathlib.AlgebraicGeometry.Morphisms.Smooth` `Mathlib.AlgebraicGeometry.Morphisms.SurjectiveOnStalks` `Mathlib.AlgebraicGeometry.Morphisms.UnderlyingMap` `Mathlib.AlgebraicGeometry.Morphisms.UniversallyClosed` `Mathlib.AlgebraicGeometry.Morphisms.UniversallyInjective` `Mathlib.AlgebraicGeometry.Morphisms.UniversallyOpen` `Mathlib.AlgebraicGeometry.Noetherian` `Mathlib.AlgebraicGeometry.OpenImmersion` `Mathlib.AlgebraicGeometry.ProjectiveSpectrum.Basic` `Mathlib.AlgebraicGeometry.ProjectiveSpectrum.Scheme` `Mathlib.AlgebraicGeometry.Properties` `Mathlib.AlgebraicGeometry.PullbackCarrier` `Mathlib.AlgebraicGeometry.Pullbacks` `Mathlib.AlgebraicGeometry.ResidueField` `Mathlib.AlgebraicGeometry.Restrict` `Mathlib.AlgebraicGeometry.Sites.BigZariski` `Mathlib.AlgebraicGeometry.Sites.MorphismProperty` `Mathlib.AlgebraicGeometry.Sites.Representability` `Mathlib.AlgebraicGeometry.Sites.SmallAffineZariski` `Mathlib.AlgebraicGeometry.SpreadingOut` `Mathlib.AlgebraicGeometry.Stalk` `Mathlib.CategoryTheory.Limits.MorphismProperty`</details>|1|
|<details><summary>24 files</summary> `Mathlib.Algebra.Homology.Square` `Mathlib.AlgebraicTopology.Quasicategory.Basic` `Mathlib.AlgebraicTopology.Quasicategory.Nerve` `Mathlib.AlgebraicTopology.Quasicategory.StrictSegal` `Mathlib.AlgebraicTopology.RelativeCellComplex.AttachCells` `Mathlib.AlgebraicTopology.SimplicialSet.CategoryWithFibrations` `Mathlib.AlgebraicTopology.SimplicialSet.KanComplex` `Mathlib.CategoryTheory.Abelian.Monomorphisms` `Mathlib.CategoryTheory.Limits.Preserves.Shapes.Square` `Mathlib.CategoryTheory.Limits.Shapes.Pullback.Square` `Mathlib.CategoryTheory.Localization.FiniteProducts` `Mathlib.CategoryTheory.MorphismProperty.Descent` `Mathlib.CategoryTheory.MorphismProperty.LiftingProperty` `Mathlib.CategoryTheory.MorphismProperty.Limits` `Mathlib.CategoryTheory.MorphismProperty.OverAdjunction` `Mathlib.CategoryTheory.MorphismProperty.Representable` `Mathlib.CategoryTheory.MorphismProperty.RetractArgument` `Mathlib.CategoryTheory.MorphismProperty.WeakFactorizationSystem` `Mathlib.CategoryTheory.Preadditive.Injective.LiftingProperties` `Mathlib.CategoryTheory.Preadditive.Projective.LiftingProperties` `Mathlib.CategoryTheory.Sites.MayerVietorisSquare` `Mathlib.CategoryTheory.Sites.MorphismProperty` `Mathlib.CategoryTheory.SmallObject.Construction` `Mathlib.Topology.Sheaves.MayerVietoris`</details>|2|
| `Mathlib.CategoryTheory.MorphismProperty.TransfiniteComposition` `Mathlib.CategoryTheory.SmallObject.TransfiniteIteration`|19|

</details>

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ IsStableUnderFilteredColimits`
`+ IsStableUnderTransfiniteCompositionOfShape.of_isStableUnderColimitsOfShape`
`+ colimitsOfShape.of_isColimit`
`+ instance (j : J) : IsIso (h.incl.app j) := (h.ici j).isIso`
`+ instance : IsStableUnderFilteredColimits.{w, w'} (isomorphisms C)`
`+ instance [HasFilteredColimitsOfSize.{v', u'} C] [AB5OfSize.{v', u'} C] :`
`+ instance {C : Type u} [Category.{v} C] [Abelian C] [IsGrothendieckAbelian.{w} C] :`
`+ instance {i j : J} (f : i ⟶ j) : IsIso (h.F.map f) := ((h.iic j).ici (⟨i, leOfHom f⟩)).isIso`
`+ mem`
`+ mem_map_bot_le`
`++ instance [W.IsMultiplicative] [W.RespectsIso]`
`- instance (j : J) : IsIso (h.incl.app j)`
`- instance : (isomorphisms C).IsStableUnderTransfiniteComposition`
`- instance : IsStableUnderTransfiniteComposition.{w} (monomorphisms C)`
`- instance {j : J} (g : ⊥ ⟶ j) : IsIso (h.F.map g) := by`
`- instance {j j' : J} (f : j ⟶ j') : IsIso (h.F.map f)`
`- map_bot_le`
`- mono`
`- mono_map`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@callesonne** ([2025-06-01 14:59 UTC](https://github.com/leanprover-community/mathlib4/pull/24777#issuecomment-2927367920)):
@erdOne do you want to have a look and/or maintainer merge? :)

**Review by callesonne — APPROVED** [review]
LGTM (already from previous PR)

File: Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean [hunk 1]
```diff
@@ -269,6 +229,82 @@ lemma isStableUnderTransfiniteCompositionOfShape_iff_of_orderIso (e : J ≃o J')
...
+
+attribute [local instance] IsCofiltered.isConnected
+
+include hJ in
+lemma mem_map_bot_le {j : J} (g : ⊥ ⟶ j) : W (hf.F.map g) := by
+  obtain rfl : g = homOfLE bot_le := rfl
+  induction j using SuccOrder.limitRecOn with
+  | isMin j hj =>
+    obtain rfl := hj.eq_bot
+    simpa only [homOfLE_refl, Functor.map_id] using W.id_mem _
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean]:
```suggestion
    simpa using W.id_mem _
```

File: Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean [hunk 2]
```diff
@@ -269,6 +229,82 @@ lemma isStableUnderTransfiniteCompositionOfShape_iff_of_orderIso (e : J ≃o J')
...
+      (.of_isColimit hf.isColimit (fun j ↦ mem_map_bot_le _ hJ _)))
+
+end IsStableUnderTransfiniteCompositionOfShape.of_isStableUnderColimitsOfShape
+
+variable {W J} in
+open IsStableUnderTransfiniteCompositionOfShape.of_isStableUnderColimitsOfShape in
+lemma IsStableUnderTransfiniteCompositionOfShape.of_isStableUnderColimitsOfShape
+    [W.IsMultiplicative] [W.RespectsIso]
+    (hJ : ∀ (J : Type w) [LinearOrder J] [SuccOrder J] [OrderBot J] [WellFoundedLT J],
+    W.IsStableUnderColimitsOfShape J) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean]:
```suggestion
      W.IsStableUnderColimitsOfShape J) :
```

File: Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean [hunk 3]
```diff
@@ -269,6 +229,82 @@ lemma isStableUnderTransfiniteCompositionOfShape_iff_of_orderIso (e : J ≃o J')
...
+    W.IsStableUnderTransfiniteCompositionOfShape J where
+  le := by
+    rintro X Y f ⟨hf⟩
+    exact mem hf hJ
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean]:
```suggestion
  le := fun _ _ _ ⟨hf⟩ ↦ mem hf hJ
```
There’s also 
```suggestion
  le _ _ _ | ⟨hf⟩ => mem hf hJ
```
but that’s arguably not the most readable.

File: Mathlib/CategoryTheory/Abelian/GrothendieckCategory/EnoughInjectives.lean [hunk 4]
```diff
@@ -324,7 +324,9 @@ instance : HasSmallObjectArgument.{w} (generatingMonomorphisms G) := by
               refine (?_ : _ ≤ monomorphisms C) _ this
               simp only [pushouts_le_iff, coproducts_le_iff]
               exact generatingMonomorphisms_le_monomorphisms G }
-        have := hf'.mono_map
+        have (j j' : κ.ord.toType) (φ : j ⟶ j') : Mono (hf'.F.map φ) :=
+          (monomorphisms C).transfiniteCompositionsOfShape_le _ _
+            ((hf'.iic j').ici ⟨j, leOfHom φ⟩).mem
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/GrothendieckCategory/EnoughInjectives.lean]: Given that this pattern appears twice (here for mono, and for isos in `Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean`), perhaps it’s worth abstracting it?
Something like
```lean
lemma TransfiniteCompositionOfShape.mem_map
    {C : Type u} [Category C] {W : MorphismProperty C}
    {J : Type w} [LinearOrder J] [SuccOrder J] [OrderBot J] [WellFoundedLT J]
    {X Y : C} {f : X ⟶ Y} (h : W.TransfiniteCompositionOfShape J f)
    [IsStableUnderTransfiniteComposition.{w} W]
    {i j : J} (φ : i ⟶ j) :
    W (h.F.map φ) :=
  W.transfiniteCompositionsOfShape_le _ _ ((h.iic j).ici (⟨i, leOfHom φ⟩)).mem
```
and a related 
```lean
lemma TransfiniteCompositionOfShape.mem_incl_app 
    {C : Type u} [Category C] {W : MorphismProperty C}
    {J : Type w} [LinearOrder J] [SuccOrder J] [OrderBot J] [WellFoundedLT J]
    {X Y : C} {f : X ⟶ Y} (h : W.TransfiniteCompositionOfShape J f)
    [IsStableUnderTransfiniteComposition.{w} W] (j : J) :
    W (h.incl.app j) :=
  W.transfiniteCompositionsOfShape_le _ _ (h.ici j).mem
```

Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/GrothendieckCategory/EnoughInjectives.lean]: Thanks for the suggestion!

File: Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean [hunk 5]
```diff
@@ -366,6 +381,43 @@ lemma transfiniteCompositions_le_iff {P Q : MorphismProperty C}
...
+variable {W} {J : Type w} [LinearOrder J] [SuccOrder J] [OrderBot J] [WellFoundedLT J]
+
+section
+
+variable [IsStableUnderTransfiniteComposition.{w} W]
+  {X Y : C} {f : X ⟶ Y} (h : W.TransfiniteCompositionOfShape J f)
+
+lemma mem_map {i j : J} (φ : i ⟶ j) :
+    W (h.F.map φ) :=
+  W.transfiniteCompositionsOfShape_le _ _ ((h.iic j).ici (⟨i, leOfHom φ⟩)).mem
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/MorphismProperty/TransfiniteComposition.lean]:
```suggestion
  W.transfiniteCompositionsOfShape_le _ _ ((h.iic j).ici ⟨i, leOfHom φ⟩).mem
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
